US04608079
Preparation of thieno[3,2-b]pyridine-5,6-dicarboxylic acid
Dimethyl thieno[3,2-b]pyridine-5,6-dicarboxylate (3.75 g, 0.0149 mol) is added to a solution of sodium hydroxide (1.8 g, 0.045 mol) in water (20 mL) and the mixture is warmed at 60° C. for 20 hours. The reaction mixture is diluted with water, cooled in an ice bath, and acidified by the addition of concentrated hydrochloric acid. A precipitate of thieno[3,2-b]pyridine-5,6-dicarboxylic acid is filtered off and dried overnight to give 3.1 g (93%) mp>380° C.

reactant | Dimethyl thieno[3,2-b]pyridine-5,6-dicarboxylate | 0.0149 mol, 3.75 g | S1C=CC2=NC(=C(C=C21)C(=O)OC)C(=O)OC | C11H9NO4S
reactant | sodium hydroxide | 0.045 mol, 1.8 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 mL | O | H2O
product | thieno[3,2-b]pyridine-5,6-dicarboxylic acid | S1C=CC2=NC(=C(C=C21)C(=O)O)C(=O)O | C9H5NO4S
